US06194410B1
10 ml of a 50% solution of NH3 in MeOH was added to a solution of 0.50 g (1.3 mmol) of 3-benzenesulphonyl-7-chloro-5-methoxymethyl-2-methylsulphanyl-pyrazolo[1,5-a]-pyrimidine in 10 ml of DMF and stirred at RT for 2 hrs. The reaction solution was evaporated and the residue was partitioned between 2N NaOH and CH2Cl2. The aqueous phase was extracted three times with CH2Cl2, and the combined organic phases were dried (MgSO4), filtered and evaporated. Subsequent chromatography (SiO2, CH2Cl2/MeOH 10:1) and crystallization from EtOH yielded 0.38 g (80%) of 3-benzenesulphonyl-5-methoxymethyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ylamine as colorless crystals, m.p.>230°.

reactant | NH3 | N | H3N
reactant | 3-benzenesulphonyl-7-chloro-5-methoxymethyl-2-methylsulphanyl-pyrazolo[1,5-a]-pyrimidine | 1.3 mmol, 0.50 g | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2Cl)COC)SC | C15H14ClN3O3S2
solvent | MeOH | CO | CH4O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 3-benzenesulphonyl-5-methoxymethyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ylamine | 0.38 g, 80% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2N)COC)SC | C15H16N4O3S2
